US04933466
Preparation of N-methyl-N-benzoylbenzamide
A pressure vessel (Fisher-Porter bottle) equipped with a Teflon coated stir bar, a gas inlet, a pressure gauge, and a pressure release valve was charged with N-methylbenzamide (242 mg, 1.79 mmol), iodobenzene (200 μl, 1.29 mmol), PdCl2L2 (76 mg, 0.107 mmol), triphenylphosphine (56 mg, 0.214 mmol) and DMAc (3.4 ml) and heated (115° C.) under one atmosphere of CO until the reactants had dissolved. DBU (320 μl, 2.14 mmol) was then introduced into the reaction mixture and the reactor charged to 40 psi with CO. After 23 hours, the reactor was cooled to room temperature, depressurized, and the reaction mixture diluted (50 ml) with ether and extracted (3×50 ml) with water. The ether layer was dried over MgSO4 and concentrated to give a red oil which was chromatographed on silica gel (2:1, hexane:ethyl acetate) to give 30 mg product (7%).

reactant | N-methylbenzamide | 1.79 mmol, 242 mg | CNC(C1=CC=CC=C1)=O | C8H9NO
reactant | iodobenzene | 1.29 mmol, 200 μl | IC1=CC=CC=C1 | C6H5I
reactant | triphenylphosphine | 0.214 mmol, 56 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DBU | 2.14 mmol, 320 μl | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ether | CCOCC | C4H10O
solvent | DMAc | 3.4 ml | CC(=O)N(C)C | C4H9NO
product | N-methyl-N-benzoylbenzamide | 30 mg, 7% | CN(C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C15H13NO2
